US07820649B2
A solution of 5-chloro-2,N-dimethylbenzamide (5.0 g, 27.2 mmol) in THF (28 mL) was cooled to −78° C. and a solution of 2M lithium diisopropylamide in THF (40.8 mL, 82 mmol) diluted with THF (68 mL) added. 4-Fluoro-3-methoxybenzonitrile (4.12 g, 27.2 mmol) in THF (28 mL) was added and the mixture stirred at −78° C. for 2.5 h. Sat. NH4Cl (aq.) was added and the mixture extracted with EtOAc (2×50 mL). A precipitate formed in the aqueous which was collected by filtration to afford 7-chloro-3-(4-fluoro-3-methoxyphenyl)-2H-isoquinolin-1-one (3.74 g, 12.3 mmol, 45%).

reactant | 5-chloro-2,N-dimethylbenzamide | 27.2 mmol, 5.0 g | ClC=1C=CC(=C(C(=O)NC)C1)C | C9H10ClNO
reactant | lithium diisopropylamide | 2M | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-Fluoro-3-methoxybenzonitrile | 27.2 mmol, 4.12 g | FC1=C(C=C(C#N)C=C1)OC | C8H6FNO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 28 mL | C1CCOC1 | C4H8O
solvent | THF | 68 mL | C1CCOC1 | C4H8O
solvent | THF | 28 mL | C1CCOC1 | C4H8O
solvent | THF | 82 mmol, 40.8 mL | C1CCOC1 | C4H8O
product | 7-chloro-3-(4-fluoro-3-methoxyphenyl)-2H-isoquinolin-1-one | 12.3 mmol, 3.74 g, 45% | ClC1=CC=C2C=C(NC(C2=C1)=O)C1=CC(=C(C=C1)F)OC | C16H11ClFNO2
